US07109200B2
4-(6-Chloronaphthalene-2-sulfonyl)-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone
Triethylamine (253 mg) was added to a solution of 1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride (258 mg) in dichloromethane (15 ml), 6-chloronaphthalene-2-sulfonyl chloride (196 mg) was added thereto at 0° C., and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added an aqueous sodium carbonate solution, the mixture was extracted with dichloromethane, dried, concentrated, and purified by column chromatography (dichloromethane:10% aqueous ammonia-containing methanol=20:1) to obtain the colorless amorphous title compound (255 mg).

reactant | Triethylamine | 253 mg | C(C)N(CC)CC | C6H15N
reactant | 1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride | 258 mg | Cl.C(C)OC(=O)NC1(CCN(CC1)C1=CC(=NC=C1)C)CN1C(CNCC1)=O
reactant | 6-chloronaphthalene-2-sulfonyl chloride | 196 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone | 255 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=CC(=NC=C1)C)NC(=O)OCC)=O | C29H34ClN5O5S
